US08629168B2
b) 1,3-Dimethyl-5-nitro-1H-pyridin-2-one
A mixture of 1 g (6.49 mmol) 1-hydroxy-3-methyl-5-nitropyridine, 0.197 g (7.8 mmol) NaH and 0.61 ml (9.73 mmol) MeI in 20 ml DMF is stirred at room temperature for 20 h. Then the reaction mixture is poured on water and extracted 3× with EtOAc. The combined organic layers are washed with water and saturated NaCl solution, dried over MgSO4, filtered and the filtrate is concentrated in vacuo to afford the title compound as off-white crystals.

reactant | 1-hydroxy-3-methyl-5-nitropyridine | 6.49 mmol, 1 g | ON1CC(=CC(=C1)[N+](=O)[O-])C | C6H8N2O3
reactant | NaH | 7.8 mmol, 0.197 g | [H-].[Na+]
reactant | MeI | 9.73 mmol, 0.61 ml | CI | CH3I
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1,3-Dimethyl-5-nitro-1H-pyridin-2-one | CN1C(C(=CC(=C1)[N+](=O)[O-])C)=O | C7H8N2O3
